US07709496B2
(b) 8-Bromo-6-chloro-2H-chromen-2-one
A solution of methyl (2E)-3-(3-bromo-5-chloro-2-hydroxyphenyl)-2-propenoate (1.45 g; 5.0 mmol) in decalin (5 mL) was heated in a sand bath at 200° C. for 48 h. The reaction was then cooled to RT and hexanes (10 mL) was added. The solid was collected by suction filtration and washed with hexanes. Drying under high vacuum gave the title compound (1.2 g, 95%) as a tan solid: 1H NMR (400 MHz, DMSO-d6) δ 7.78 (s, 1H), 7.63 (d, J=9.6 Hz, 1H)), 7.46 (s, 1H), 6.52 (d, J=9.6 Hz, 1H); MS (ES) m/e 259, 261 (M+H)+.

reactant | methyl (2E)-3-(3-bromo-5-chloro-2-hydroxyphenyl)-2-propenoate | 5.0 mmol, 1.45 g | BrC=1C(=C(C=C(C1)Cl)/C=C/C(=O)OC)O | C10H8BrClO3
solvent | decalin | 5 mL | C1CCCC2CCCCC12 | C10H18
product | 8-Bromo-6-chloro-2H-chromen-2-one | 1.2 g, 95% | BrC=1C=C(C=C2C=CC(OC12)=O)Cl | C9H4BrClO2
